data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1ccc(C)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(C)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(C)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1ccc(C)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(C)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1ccc(C)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)ccc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)ccc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1ccc(C)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1ccc(C)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(C)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1ccc(C)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2OCC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OCC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OCC)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "CCOc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12COC(OC)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(OC)(CO1)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(OC)(CO1)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(OC)(CO1)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(OC)(CO1)O2", "products": "COC12COC(OC)(O1)C1C(=O)C12"}, {"reactants": "COC12COC(OC)(O1)C1C(=O)C12.[O-]C", "products": "COC12COC(OC)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12COC(OC)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)COC1(OC)O2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(cc([Si](C)(C)CCl)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OCC(Cl)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(Cl)O3)cc1", "products": "O=C1C2C3OCC(Cl)(O3)C12"}, {"reactants": "O=C1C2C3OCC(Cl)(O3)C12.[O-]C", "products": "COC1([O-])C2C3OCC(Cl)(O3)C21"}, {"reactants": "COC1([O-])C2C3OCC(Cl)(O3)C21.CO", "products": "COC(=O)C1CC2(Cl)COC1O2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)c(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(Cl)c1)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1Cl"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1Cl", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1Cl"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1Cl"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1Cl", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1Cl.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(Cl)c1", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(Cl)c1"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(Cl)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(Cl)c1", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1cccc(Cl)c1"}]}
